US07700778B2
Step A: Preparation of 2-bromo-5-chloro-N-methoxy-N-methylbenzamide
N,N-diisopropylethylamine (1.10 mL, 6.36 mmol) was added to a stirred solution of 2-bromo-5-chlorobenzoic acid (0.500 g, 2.12 mmol), N,O-dimethylhydroxyl-amine.HCl (0.310 g, 3.18 mmol), and O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluoro-phosphate (1.21 g, 3.18 mmol) in N,N-dimethylformamide (8.5 mL) at ambient temperature. After 3 h, the reaction mixture was poured into water and extracted three times with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium bicarbonate, brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0-25% ethyl acetate/hexanes as eluent) gave the title compound as a colorless solid.

reactant | N,N-diisopropylethylamine | 6.36 mmol, 1.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromo-5-chlorobenzoic acid | 2.12 mmol, 0.500 g | BrC1=C(C(=O)O)C=C(C=C1)Cl | C7H4BrClO2
reactant | N,O-dimethylhydroxyl-amine | CNOC | C2H7NO
reactant | HCl | 3.18 mmol, 0.310 g | Cl | ClH
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluoro-phosphate | 3.18 mmol, 1.21 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 8.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-bromo-5-chloro-N-methoxy-N-methylbenzamide | BrC1=C(C(=O)N(C)OC)C=C(C=C1)Cl | C9H9BrClNO2
